US08258144B2
2-(1-(2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetamide
To a solution of 2-(1-(2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetic acid (26 mg, 0.062 mmol) and HOBt (35 mg, 0.23 mmol) in DMF (2 mL), EDC (40 mg, 0.21 mmol) was added. After being stirred for 40 min, NH3 (0.5 M in dioxane, 1.00 mL, 0.500 mmol) was added. The mixture was stirred for 20 h. It was then purified by HPLC to give the titled compound (20 mg). MS 420.3 (M+H); UV 201.8, 279.8 nm.

reactant | 2-(1-(2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetic acid | 0.062 mmol, 26 mg | O=C1NC2=CC=C(C=C2CC1)NC=1N=C(C2=C(N1)NC=C2)N2CCC(CC2)CC(=O)O | C22H24N6O3
reactant | HOBt | 0.23 mmol, 35 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.21 mmol, 40 mg
reactant | NH3 | 0.500 mmol, 0.5 M, 1.00 mL | N | H3N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(1-(2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetamide | 20 mg | O=C1NC2=CC=C(C=C2CC1)NC=1N=C(C2=C(N1)NC=C2)N2CCC(CC2)CC(=O)N | C22H25N7O2
